US05747515
1-(4-Methyl-5-thiazolyl)-1-phenylethanol
4-Methylthiazole (log) in dry tetrahydrofuran (50ml) at -70° C. was stirred under a nitrogen atmosphere and n-butyllithium (2.5M solution in hexane, 44.4 ml) was added dropwise. After 30 minutes, trimethylsilylchloride (12.8 ml) was added and the reaction mixture was allowed to warm to room temperature. After 30 minutes the mixture was cooled to -70° C. and n-butyllithium (44.4ml) was added dropwise. After 30 minutes, acetophenone (12.9ml) was added dropwise and the mixture stirred at -70° C. for 1 hour. The reaction mixture was allowed to warm to room temperature and aqueous sodium hydrogen carbonate was added. The organic layer was separated and the aqueous layer was extracted with diethylether. The combined organic layers were then worked up to afford the title compound as a white solid, m.p. 128.5-129.5° C.

reactant | 4-Methylthiazole | CC=1N=CSC1 | C4H5NS
reactant | n-butyllithium | 2.5M, 44.4 ml | C(CCC)[Li]
reactant | trimethylsilylchloride | 12.8 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | n-butyllithium | 44.4ml | C(CCC)[Li]
reactant | acetophenone | 12.9ml | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 50ml | O1CCCC1 | C4H8O
product | 1-(4-Methyl-5-thiazolyl)-1-phenylethanol | CC=1N=CSC1C(C)(O)C1=CC=CC=C1 | C12H13NOS
